US04914111
Step A: Preparation of 3-(4-Methoxybenzoyl)thiophene
To 4.0 g (0.0246 m) of 3-bromothiophene in 70 ml ether cooled to -75° C. under N2 was added dropwise 0.0246 m of n-butyllithium (in hexane) at such a rate that the temperature was <-70° C. After addition was complete the reaction mixture was stirred at -75° C. for 10 minutes and then a solution of 4-methoxybenzonitrile (3.46 g, 0.026 m) in 20 ml ether was added dropwise at <-70° C. The resulting suspension was stirred at -75° C. for 45 minutes and then allowed to warm to -10° C. over 2 hours. The reaction mixture was cooled, quenched with 15 ml H2O and then with 40 ml of 2N HCl. The phases were separated and the aqueous extract was washed with 50 ml ether, and then heated at reflux for 2 hours. This solution was cooled and extracted with 2×60 ml ether. The organic phases were washed with brine, dried and evaporated to give an oil which was triturated with petroleum ether to give the product as a solid, m.p. 58°-61° C.

reactant | 3-bromothiophene | 4.0 g | BrC1=CSC=C1 | C4H3BrS
reactant | n-butyllithium | C(CCC)[Li]
reactant | 4-methoxybenzonitrile | 3.46 g | COC1=CC=C(C#N)C=C1 | C8H7NO
reactant | ether | 70 ml | CCOCC | C4H10O
reactant | ether | 20 ml | CCOCC | C4H10O
product | 3-(4-Methoxybenzoyl)thiophene | COC1=CC=C(C(=O)C2=CSC=C2)C=C1 | C12H10O2S
